* d:\softwares\esimfolder\esimworkspace\10thmarch1\10thmarch1.cir

.include lm_741.sub
.include NJF.lib
.include PMOS-180nm.lib
.include NMOS-180nm.lib
.include D.lib
m1 vout2_schmitt_ vout_wien_ net-_m1-pad3_ gnd CMOSN W=0.36u L=0.18u M=1
m2 net-_m1-pad3_ vout_wien_ gnd gnd CMOSN W=0.36u L=0.18u M=1
m6 net-_m3-pad1_ vout2_schmitt_ net-_m1-pad3_ gnd CMOSN W=0.36u L=0.18u M=1
m4 net-_m3-pad3_ vout_wien_ vout2_schmitt_ net-_m3-pad1_ CMOSP W=0.9u L=0.18u M=1
m3 net-_m3-pad1_ vout_wien_ net-_m3-pad3_ net-_m3-pad1_ CMOSP W=0.9u L=0.18u M=1
m5 net-_m3-pad3_ vout2_schmitt_ gnd net-_m3-pad1_ CMOSP W=0.9u L=0.18u M=1
* u2  vout2_schmitt_ plot_v1
v3  net-_m3-pad1_ gnd 5
j1 net-_j1-pad1_ net-_c1-pad1_ gnd J2N3819
x1 ? net-_r1-pad2_ net-_c2-pad1_ net-_x1-pad4_ ? vout_wien_ net-_x1-pad7_ ? lm_741
v1 net-_x1-pad7_ gnd  dc 12
v2 gnd net-_x1-pad4_  dc 12
r1  gnd net-_r1-pad2_ 1k
r3  net-_r1-pad2_ net-_j1-pad1_ 4k
r6  net-_r1-pad2_ vout_wien_ 2k
r5  net-_c2-pad1_ net-_c3-pad2_ 80k
r2  net-_c1-pad1_ gnd 470k
r4  net-_c2-pad1_ gnd 80k
c1  net-_c1-pad1_ gnd 1u
c2  net-_c2-pad1_ gnd 10n
c3  vout_wien_ net-_c3-pad2_ 10n
* u1  vout_wien_ plot_v1
d1 net-_c1-pad1_ vout_wien_ 1N4148
* u3  vout3_int_ plot_v1
c4  vout3_int_ gnd 1u
r7  vout2_schmitt_ vout3_int_ 45k
.tran 0.1e-03 400e-03 350e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout2_schmitt_) + 0 v(vout_wien_) +  0 v(vout3_int_)

.endc
.end
